US07462630B2
Synthesis of 3-[(t-butoxycarbonyl)amino]-4-methoxy-4-oxobutanoic acid:
2.0 g (6.18 mmol) of 4-(benzyloxy)-2-[(t-butoxycarbonyl)amino]-4-oxobutanoic acid was dissolved in a solvent mixture of 6 ml of methanol and 12 ml of toluene. 3.7 ml of 2 M trimethylsilyldiazomethane/hexane solution was added to the obtained solution and they were stirred for 3 hours. Additional 0.5 ml of 2 M trimethylsilyldiazomethane/hexane solution was added to the reaction mixture and they were stirred for 1 hour. The solvent was evaporated under reduced pressure. The residue was dissolved in 20 ml of ethanol. 2.0 g of palladium carbon (10% w/v) was added to the obtained solution, and they were stirred in hydrogen gas atmosphere for 19 hours. After the filtration, the solvent was evaporated under reduced pressure to obtain the title compound.

reactant | 4-(benzyloxy)-2-[(t-butoxycarbonyl)amino]-4-oxobutanoic acid | 6.18 mmol, 2.0 g | C(C1=CC=CC=C1)OC(CC(C(=O)O)NC(=O)OC(C)(C)C)=O | C16H21NO6
reactant | trimethylsilyldiazomethane hexane | 2 M, 3.7 ml | C[Si](C)(C)C=[N+]=[N-].CCCCCC
reactant | trimethylsilyldiazomethane hexane | 2 M, 0.5 ml | C[Si](C)(C)C=[N+]=[N-].CCCCCC
solvent | methanol | 6 ml | CO | CH4O
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[(t-butoxycarbonyl)amino]-4-methoxy-4-oxobutanoic acid | C(C)(C)(C)OC(=O)NC(CC(=O)O)C(=O)OC | C10H17NO6
